US09145413B2
a. 6-Fluoro-[1,2,4]triazolo[4,3-a]pyridine (Intermediate 24a)
(5-Fluoro-pyridin-2-yl)-hydrazine (500 mg, 3.93 mmol) in diethoxymethyl acetate (5 mL) was stirred at RT for 2 h. The resulting precipitate was diluted with cyclohexane (5 ml) and filtered to give the title compound (379 mg, 70%). 1H NMR (400 MHz, CDCl3): 7.25 (1H, m), 7.84 (1H, m), 8.09 (1H, t), 8.84 (1H, s).

reactant | (5-Fluoro-pyridin-2-yl)-hydrazine | 3.93 mmol, 500 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | diethoxymethyl acetate | 5 mL | C(C)(=O)OC(OCC)OCC | C7H14O4
solvent | cyclohexane | 5 ml | C1CCCCC1 | C6H12
product | 6-Fluoro-[1,2,4]triazolo[4,3-a]pyridine | 379 mg, 70% | FC=1C=CC=2N(C1)C=NN2 | C6H4FN3
